Name:  ___          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
anemia
 
Major Surgical or Invasive Procedure:
EGD and colonoscopy

 
History of Present Illness:
___ with known uterine fibroids (s/p fibroidectomy) and heavy 
menses (currently menstuating). Went to NP at ___ on ___ c/o 
1 episode of abdominal pain different from menstrual cramps, had 
labs which showed HCT drop from 32-> 26 since ___. Currently 
menstruating with heavy bleeding. She also reports black stools 
for the past two days. She endorses light-headedness with 
ambulation and exertion. Her last colonoscopy was last year.  
 
In ER: VS: 99.2 97 158/79 100% RA
PX: Bright Red blood in rectal vault on exam
Studies: Her repeat Hct down to 24, ferritin 8
Fluids given: none
Meds given: none
Consults called: GI: They will consider scoping if hct continues 
to fall.
VS prior to transfer to the floor: 73 148/80 100% on RA

 
Review of Systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies visual changes, headache, sinus tenderness, neck 
stiffness, rhinorrhea, congestion, sore throat or dysphagia. 
Denies chest pain or tightness, palpitations, orthopnea, dyspnea 
on exertion. Denies cough, shortness of breath, wheezes or 
pleuritic pain. Denies nausea, vomiting, heartburn, diarrhea, 
constipation, BRBPR, or abdominal pain. No dysuria, urinary 
frequency. Denies arthralgias or myalgias. Denies rashes. No 
increasing lower extremity swelling. No numbness/tingling or 
muscle weakness in extremities. No feelings of depression or 
anxiety. All other review of systems negative. 
 
 

 
Past Medical History:
iron deficiency anemia (not on iron)
fibroids
 
Social History:
___
Family History:
 
No known hx of bleeding disorders, colon cancer or inflammatory 
bowel disease 

 
Physical Exam:
VS: 97.6 123/78 72 18 100%, ___ pain
 
GEN: Alert and oriented to person, place and situation; no 
apparent distress
HEENT: no trauma, pupils round and reactive to light and 
accommodation, no LAD, oropharynx clear, no exudates
CV: regular rate and rhythm, no murmurs/gallops/rubs
PULM: clear to auscultation bilaterally, no 
rales/crackles/rhonchi
GI: soft, non-tender, non-distended; no guarding/rebound
EXT: no clubbing/cyanosis/edema; 2+ distal pulses; peripheral IV 
present
NEURO: CN II-XII intact, ___ motor function globally, symmetric 
DTRs throughout
DERM: no lesions appreciated
 
 
 
Pertinent Results:
EGD ___: Normal mucosa in the duodenum (biopsy)
Otherwise normal EGD to third part of the duodenum
.
Colonoscopy ___: Grade 1 internal hemorrhoids
Otherwise normal colonoscopy to cecum
.
Prelim report for pelvic u/s: 
1. Heterogeneous uterus which is likely due to the presence of 
fibroids and adenomyosis. 
2. Normal endometrium. 
3. Left hydrosalpinx. 

___ 11:36AM BLOOD WBC-6.1# RBC-4.28 Hgb-7.6* Hct-24.7* 
MCV-58* MCH-17.7* MCHC-30.7* RDW-18.5* Plt ___
___ 04:30AM BLOOD WBC-5.4 RBC-3.96* Hgb-7.0* Hct-22.8* 
MCV-58* MCH-17.7* MCHC-30.8* RDW-19.0* Plt ___
___ 06:55AM BLOOD WBC-9.7# RBC-4.90 Hgb-10.3* Hct-32.2* 
MCV-66* MCH-21.0* MCHC-31.9 RDW-25.5* Plt ___
___ 11:36AM BLOOD Ret Aut-1.5
___ 06:00AM BLOOD Glucose-88 UreaN-7 Creat-0.8 Na-143 K-3.9 
Cl-110* HCO3-27 AnGap-10
___ 11:36AM BLOOD calTIBC-454 VitB12-519 Folate-GREATER TH 
Ferritn-8.0* TRF-___ with PMHx of uterine fibroids (s/p fibroidectomy) and 
chronic iron deficiency  anemia attributed to heavy menses who 
presented with symptomatic anemia and was found to have BRBPR on 
rectal exam.  GI was consulted and pt underwent both upper and 
lower endoscopy that were essentially unrevealing for a source 
of acute bleeding.  There were non-bleeding gr 1 internal 
hemorrhoids seen that may have contributed to the BRBPR on 
admisison.  Pt was having menses on admission and hct continued 
to drift down after transfusion with 2u prbcs.  She was given a 
third transfusion after which she felt symptomatically improved 
with no DOE or LH.  Pt reported difficulty tolerating oral iron 
and she was given IV ferric gluconate while in house due to her 
severe iron deficiency anemia.  Gyn was consulted and pt 
underwent a pelvic ultrasound.  Prelim read showed stable 
fibroids and her primary gynecologist Dr. ___ was notified.  
Pt was scheduled to follow up early next week with her primary 
gynecologist to review further management of her menorrhagia and 
to review the final u/s report.  Pt was given a prescription for 
colace to help with iron related constipation and evncouraged to 
continue taking iron twice daily. 
.
She was continued on her home regimen for hypertension and is 
scheduled to be seen at HCA in 2weeks. 
 
Medications on Admission:
verapamil 120 mg 1 po daily
hydrochlorothiazide 25 mg 1 po daily
fluticasone 50 mcg 1 spray intranasally BID
ferrous gluconate 325 mg 1 po BID (not taking as prescribed)
 
Discharge Medications:
1. ferrous sulfate 325 mg (65 mg Iron) Tablet Sig: One (1) 
Tablet PO twice a day.  
2. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day.
Disp:*60 Capsule(s)* Refills:*2*
3. verapamil 120 mg Tablet Sustained Release Sig: One (1) Tablet 
Sustained Release PO once a day.  
4. hydrochlorothiazide 25 mg Tablet Sig: One (1) Tablet PO once 
a day.  
5. fluticasone 50 mcg/Actuation Spray, Suspension Sig: ___  
Nasal once a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Symptomatic Anemia
Menorrhagia
BRBPR likely due to hemorrhoids

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with symptomatic anemia and you have been 
treated with blood transfusions and IV iron replacement.  You 
were seen by gastroenterology for both EGD and colonoscopy which 
was unrevealing for a source of bleeding.  We think that your 
symptomatic anemia was most likely related to your heavy menses 
and fibroids.   You were seen by the gynecology team and had a 
pelvic ultrasound which showed stable fibroids.
.
We made the following changes to your medication regimen:
1. You need to continue taking oral iron every day 
2. Start taking colace 100mg BID
.
Otherwise, you should continue taking all your other medications 
as you were prior to admission.
.

 
Followup Instructions:
___